US08809342B2
3-[(6-{(S)-3-Methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-pyridine-3-carbonyl)-amino]-propionic acid ethyl ester (29.2 g wet with ethyl acetate, theoretically 54.0 mmol) was dissolved in tetrahydrofuran (135 mL) and methanol (45 mL), and 1.0 M sodium hydroxide (135 mL) was added. This was stirred at room temperature for 20 min before most of the organics were rotovapped off. A small amount of tetrahydrofuran was added and the mostly aqueous contents were stirred in an ice bath. 1 N HCl (130 mL) was added until pH 5. Ethyl acetate was added and stirred for ˜20 min to ensure constant pH. The material was added to a sep funnel and the layers separated. The aqueous was back extracted with additional ethyl acetate and the combined organics were washed with brine and dried over MgSO4. This was concentrated and the solid was placed in a vacuum oven for two days to give 3-[(6-{(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-pyridine-3-carbonyl)-amino]-propionic acid as a white foam. 1H NMR (400 MHz, DMSO-d6, δ): 12.16 (s, 1 H) 8.97 (s, 2 H) 8.54 (d, J=8.2 Hz, 2 H) 8.41 (d, J=2.0 Hz, 1 H) 8.19 (t, J=5.4 Hz, 1 H) 7.87 (d, J=8.4 Hz, 2 H) 7.78 (dd, J=8.8, 2.3 Hz, 1 H) 7.68 (d, J=8.0 Hz, 1 H) 6.58 (d, J=8.6 Hz, 1 H) 5.09-5.26 (m, 1 H) 3.38 (q, J=6.7 Hz, 2 H) 2.44 (t, J=7.0 Hz, 2 H) 1.80-1.94 (m, 1 H) 1.57-1.77 (m, 2 H) 0.96 (d, J=6.1 Hz, 3 H) 0.92 (d, J=6.3 Hz, 3 H); MS (M+1): 502.3.

reactant | 3-[(6-{(S)-3-Methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-pyridine-3-carbonyl)-amino]-propionic acid ethyl ester | C(C)OC(CCNC(=O)C=1C=NC(=CC1)N[C@@H](CC(C)C)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)=O | C27H30F3N5O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1.0 M, 135 mL | [OH-].[Na+]
reactant | HCl | 1 N, 130 mL | Cl | ClH
solvent | tetrahydrofuran | 135 mL | O1CCCC1 | C4H8O
solvent | methanol | 45 mL | CO | CH4O
product | 3-[(6-{(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-pyridine-3-carbonyl)-amino]-propionic acid | CC(C[C@@H](C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)NC1=CC=C(C=N1)C(=O)NCCC(=O)O)C | C25H26F3N5O3
